US04005100
15.5 g of 2-amino-3,3-bis(p-methoxyphenyl)-5-methyl-1-pyrroline and 5.4 g of 2,7-dimethyl-4H,9H-dipyrazolo[1,5-a: 1',5'-d]pyrazine are suspended in 100 ml of absolute dimethyl-formamide and warmed to 120° C. for 5 hours with intensive stirring and exclusion of moisture, a clear solution being obtained. The dimethylformamide is subsequently distilled off in a water-jet pump vacuum and the remaining residue is dissolved in 250 ml of chloroform. This chloroform solution is washed twice with 5% acetic acid, twice with ca 10% sodium bicarbonate solution and subsequently with water. After evaporation of the chloroform, a crude product remain behind. Upon recrystallization of the crude product from benzene/low boiling petroleum ether, there is obtained N-[3,3-bis(p-methoxyphenyl)-5-methyl-1-pyrrolin-2-yl]-5-methylpyrazole-3-carboxamide of melting point 173° C. (uncorrected).

reactant | 2-amino-3,3-bis(p-methoxyphenyl)-5-methyl-1-pyrroline | 15.5 g | NC1=NC(CC1(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C | C19H22N2O2
reactant | 2,7-dimethyl-4H,9H-dipyrazolo[1,5-a: 1',5'-d]pyrazine | 5.4 g | CC1=NN2C(CN3C(C2)=CC(=N3)C)=C1 | C10H12N4
reactant | dimethyl-formamide | 100 ml | CN(C=O)C | C3H7NO
product | N-[3,3-bis(p-methoxyphenyl)-5-methyl-1-pyrrolin-2-yl]-5-methylpyrazole-3-carboxamide | COC1=CC=C(C=C1)C1(C(=NC(C1)C)NC(=O)C1=NNC(=C1)C)C1=CC=C(C=C1)OC | C24H26N4O3
